US05859014
A mixture of 3-benzyloxy-2,2-dimethylpropanenitrile (2.5 g, 13.2 mmol), 10% aqueous sodium hydroxide (10 mL) and methanol (150 mL) was heated 8 hours at reflux and then concentrated. The residue was dissolved in water (30 mL) and the solution was washed with dichloromethane (2×10 mL), treated with 10% hydrochloric acid and extracted with ethyl acetate (4×20 mL). The combined extracts were washed with water and brine, dried (MgSO4) and concentrated to give 3-benzyloxy-2,2-dimethylpropionic acid (1.6 g, 7.5 mmol).

reactant | 3-benzyloxy-2,2-dimethylpropanenitrile | 13.2 mmol, 2.5 g | C(C1=CC=CC=C1)OCC(C#N)(C)C | C12H15NO
reactant | sodium hydroxide | 10 mL | [OH-].[Na+]
reactant | methanol | 150 mL | CO | CH4O
product | 3-benzyloxy-2,2-dimethylpropionic acid | 7.5 mmol, 1.6 g | C(C1=CC=CC=C1)OCC(C(=O)O)(C)C | C12H16O3
